US06916822B2
(a) 8-(tert-Butoxycarbonyl)-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one
1-Phenyl-1,3,8-triazaspiro[4,5]decan-4-one (2.00 g) was dissolved in a mixed solution of dichloromethane (20 ml) and methanol (20 ml), added with di-tert-butyl dicarbonate (2.98 ml) and diisopropylethylamine (2.26 ml) and stirred at room temperature for 14 hours. The solvent was evaporated under reduced pressure, and then the residue was added with water (50 ml) and extracted twice with dichloromethane (50 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=1:1) to obtain 2.173 g of the title compound. Yield: 76%.

reactant | 1-Phenyl-1,3,8-triazaspiro[4,5]decan-4-one | 2.00 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | di-tert-butyl dicarbonate | 2.98 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 2.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 8-(tert-Butoxycarbonyl)-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | 2.173 g, Yield: 76% | C(C)(C)(C)OC(=O)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C18H25N3O3
